US06734203B2
1 M Sodium hydroxide aqueous solution (5.0 ml) was added to a solution of 1-(2-methoxyethyl)-2-methyl-3-(4-pyridylmethyl)-4,9-dihydro-4,9-dioxo-1H-naphtho[2,3-d]imidazol-3-ium chloride monohydrochloride (1.1 g) in ethanol (30 ml) and the mixture was stirred at room temperature for 30 minutes. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (fraction A: elution with ethyl acetate-hexane 1:1 solution, fraction B: elution with ethyl acetate). The fraction A was crystallized from diethyl ether to give N-[3-(2-methoxyethyl)amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl]-N-(4-pyridylmethyl)acetamide (0.2 g) as a red powder. In this connection, the fraction B was crystallized from ethyl acetate to give a yellow powder (0.31 g) which was found to be the same compound, N-(2-methoxyethyl)-N-[3-(4-pyridylmethyl)amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl]acetamide that will be described later in Example 37.

reactant | Sodium hydroxide | 1 M, 5.0 ml | [OH-].[Na+]
reactant | 1-(2-methoxyethyl)-2-methyl-3-(4-pyridylmethyl)-4,9-dihydro-4,9-dioxo-1H-naphtho[2,3-d]imidazol-3-ium chloride monohydrochloride | 1.1 g | Cl.[Cl-].COCCN1C(=[N+](C2=C1C(C1=CC=CC=C1C2=O)=O)CC2=CC=NC=C2)C
reactant | Water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-[3-(2-methoxyethyl)amino-1,4-dihydro-1,4-dioxo-2-naphthalenyl]-N-(4-pyridylmethyl)acetamide | 0.2 g | COCCNC1=C(C(C2=CC=CC=C2C1=O)=O)N(C(C)=O)CC1=CC=NC=C1 | C21H21N3O4
